Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
None this hospitalization

 
History of Present Illness:
This is a ___ year-old Female with a PMH significant for multiple 
prior pulmonary emboli ___, on Coumadin), HTN, type 1-IDDM (on 
Insulin) who complained of multiple weeks of progressive dyspnea 
which appears to be ocurring even at rest. She also notes some 
substernal chest pain but can't remember when it started; likely 
weeks to months. Eventually her dyspnea progressed to the point 
that she was unable to get relief at rest. Per the daughter, she 
was watching TV for a few hours and stood up, after which time 
she was quite tachypneic and diaphoretic, the day of admission 
(___). She was unable to catch her breath, so her daughter 
called EMS. EMS found her in A.fib with RVR to the 160s, at 
which time she received IV Diltiazem and Adenosine. She was 
tachypneic to the ___ and was placed on BiPAP.
.  
Of note, she has had multiple pulmonary issues in the past. She 
had a DVT in ___. In ___, the patient was found to have RUL 
mass on a pre-op CXR prior to back surgery. The mass was excised 
and pathology showed necrosis and superinfection from a prior 
pulmonary infarct. She states she was asymptomatic at the time 
of the infarct but old ___ notes state that she was dyspneic 
2-days prior to presentation. She also had an admission for 
dyspnea in ___ that was secondary to multiple PEs. She remains 
relatively immobilized secondary to spinal stenosis and leg 
cramps, but can ambulate with two canes.  
.  
In the ED, VS 89, 117/45, 18, 97%BiPAP. Labs were notable for a 
lactate of 5.7 which trended down to 2.2, a creatinine of 2.5 
(baseline 1.3?), WBC 13.1, a Troponin of 0.07, and BNP 4982. She 
underwent CXR and CT w/o contrast to evaluate her dyspnea w/o 
acute finding. Given her elevated creatinine, CTA protocol for 
PE was not performed. She was seen by Cardiology for her 
elevated troponin who felt there was no major cardiac issue at 
that time. She was gradually weaned off of BiPAP to 2L NC. She 
received Lasix 40 mg x 1, ASA 325 and was started on a heparin 
drip (for empiric treatment given prior PEs) and was admitted to 
Medicine.
.
After admission to the Medicine service and a heparin gtt was 
initiated. She received Lasix 20 mg PO x 1. While on the floor 
she remained on 3L O2 via NC with oxygen saturations in the 
mid-90s. She noted intermittent chest tightness substernally 
without radiation to the arm, jaw or neck. Her repeat Troponin 
was 0.07 -> 0.57, CK-MB 21 (creatinine 2.3) and her repeat EKG 
showed a 1-mm elevation V1-V2 and ST depressions in V5-6 which 
was a changed from prior. Given these findings, she was 
medically optimized with Aspirin, heparin gtt was continued, 
beta-blocker and statin. Later in the day, the patient 
experienced 4-episodes of grossly melanotic stools without 
evidence of clot and was found to have a PTT > 150 and the 
heparin gtt was discontinued. At that time, her HCT remained 
stable at 31.6%, but she had evidence of thrombocytopenia to 
125. She denied dizziness or lightheadedness. It was decided at 
this point, given the findings of NSTEMI, that the patient would 
benefit from a Cardiology-Medicine service for further 
management. Just prior to transfer, a single blood culture from 
admission noted gram positive cocci and IV Vancomycin was begun 
empirically. She remained afebrile.
.
This evening, she denies current chest pain or shortness of 
breath in bed while resting on 3L NC. She has no lightheadedness 
or dizziness and has not had another bloody BM. She is 
tolerating diet and is without nausea or vomiting.
.  
Cardiac review of systems is notable for absence of chest pain, 
notable for dyspnea on exertion (per HPI), no paroxysmal 
nocturnal dyspnea, no orthopnea, some bilateral ankle edema; 
denies palpitations, syncope or pre-syncope.
.
ROS: The patient has a strong history of prior deep venous 
thrombosis and pulmonary embolus. She denies headaches or vision 
changes. No cough or upper respiratory symptoms. Denies chest 
pain, dizziness or lightheadedness; no palpitations. No nausea 
or vomiting, denies abdominal pain. No dysuria or hematuria. 
Denies muscle weakness, myalgias or neurologic complaints. No 
exertional buttock or calf pain, although her legs 'hurt' 
sometimes.   
 
Past Medical History:
PAST MEDICAL & SURGICAL HISTORY:
1. Hypertension 
2. Type 1 diabetes mellitus (IDDM) - diagnosed since age ___?
3. Peripheral vascular disease (s/p SFA artherectomy, ___
4. Mild renal insufficiency (baseline creatinine 1.3-1.7)
5. Spinal stenosis (s/p decompression, ___
6. s/p left eye cataract surgery
7. History of multiple pulmonary emboli (DVT ___, on Coumadin 
for ___ months)
8. s/p right upper lobectomy (for pulmonary infarct, asbcess, 
___

 
Social History:
___
Family History:
Denies family history of early MI, arrhythmia, cardiomyopathies, 
or sudden cardiac death; otherwise non-contributory. Mother had 
DM, HTN (died at age ___. Father died at ___ of renal failure. 
One of her 2 sisters has DM
 
Physical Exam:
VITALS: 98.2 / 96.6  89  142/62  22  98% 3L NC   600 | 700F
GENERAL: Appears in no acute distress. Alert and interactive, 
resting in bed.
HEENT: Normocephalic, atraumatic. EOMI. PERRL. Nares clear. 
Mucous membranes dry.
NECK: supple without lymphadenopathy. JVD to base of clavicle.
___: PMI located in the ___ intercostal space, mid-clavicular 
line. Regular rate and rhythm, without murmurs, rubs or gallops. 
S1 and S2 normal. No S3 or S4.
RESP: Respirations unlabored, no accessory muscle use. Decreased 
breath sounds at bases without adventitious sounds. No wheezing, 
rhonchi, mild inspiratory crackles. Stable inspiratory effort.
ABD: soft, non-tender, non-distended, with normoactive bowel 
sounds. No palpable masses or peritoneal signs.
EXTR: no cyanosis, clubbing. 1+ bilateral pitting edema, 2+ 
peripheral pulses ___ 1+)
DERM: Mild stasis dermatitis; no ulcers, scars.
NEURO: CN II-XII intact throughout. Alert and oriented x 3. DTRs 
2+ throughout, strength ___ bilaterally, sensation grossly 
intact. Gait deferred.
PULSE EXAM:
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
.
ON DISCHARGE:
VITALS: 97.7/97.2  130-150/63  ___  16  98%RA
I/Os: 1220 | 1800 (net negative -600 cc, this admission -3.6L)
WEIGHT: 95.1kg -> 94.9kg -> 88.7kg -> 91.5kg
GENERAL: Appears in no acute distress. Alert and interactive, 
resting in bed. Oriented to self, location (x 2)
HEENT: Normocephalic, atraumatic. EOMI. PERRL. Mucous membranes 
dry.
NECK: supple without lymphadenopathy. JVD to base of clavicle.
___: PMI located in the ___ intercostal space, mid-clavicular 
line. Regular rate and rhythm, without murmurs, rubs or gallops. 
S1 and S2 normal. No S3 or S4.
RESP: Respirations unlabored, no accessory muscle use. Decreased 
breath sounds at bases without adventitious sounds. No wheezing, 
rhonchi, but notable for mild inspiratory crackles. Stable 
inspiratory effort.
ABD: soft, non-tender, non-distended, with hyperactive bowel 
sounds. No palpable masses or peritoneal signs.
EXTR: no cyanosis, clubbing. 1+ bilateral pitting edema L > R 
with tenderness to palpation and warmth, 2+ peripheral pulses 
___ 1+). tenderness to palpation in left thigh
DERM: Mild stasis dermatitis; no ulcers, scars.
PULSE EXAM:
Right: Carotid 2+ Femoral 2+ DP 1+ ___ 1+  
Left: Carotid 2+ Femoral 2+  DP 1+ ___ 1+
 
Pertinent Results:
___ 07:45AM BLOOD WBC-12.7* RBC-3.24* Hgb-10.2* Hct-29.8* 
MCV-92 MCH-31.6 MCHC-34.3 RDW-13.9 Plt ___

___ 07:45AM BLOOD ___ PTT-53.3* ___
___ 09:20PM BLOOD ___ 07:45AM BLOOD Glucose-170* UreaN-70* Creat-2.6* Na-140 
K-4.5 Cl-104 HCO3-24 AnGap-17

___ 06:45AM BLOOD CK(CPK)-596*
___ 10:15PM BLOOD CK(CPK)-704*

___ 09:20PM BLOOD Lipase-33

___ 06:45AM BLOOD CK-MB-12* MB Indx-2.0 cTropnT-0.34*
___ 10:15PM BLOOD CK-MB-16* MB Indx-2.3 cTropnT-0.41*
___ 11:05AM BLOOD CK-MB-21* cTropnT-0.57*

___ 09:20PM BLOOD proBNP-4982*
___ 09:20PM BLOOD cTropnT-0.07___

___ 07:45AM BLOOD Calcium-8.1* Phos-3.8 Mg-2.0

___ 09:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ 09:31PM BLOOD Glucose-271* Lactate-5.7* Na-145 K-3.9 
Cl-106 calHCO3-23
.
EKG (___): 1-mm elevation V1-V2 and ST depressions in V5-6 
.
TELEMETRY: no acute changes noted.
.
2D-ECHO (___): The left atrium is normal in size. The 
interatrial septum is aneurysmal. The estimated right atrial 
pressure is at least 15 mmHg. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is probabaly 
mildly to moderately depressed (estimated LVEF= 35-40%, 
difficult to assess given irregular rhythm and frequent PVCs). 
No masses or thrombi are seen in the left ventricle. There is no 
ventricular septal defect. The right ventricular cavity is 
dilated with depressed free wall contractility (RV apex appears 
spared). The aortic valve leaflets are mildly thickened (?#). 
There is no aortic valve stenosis. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion.
.
CARDIAC CATH: None
.
MICROBIOLOGY DATA: 
___ Blood culture - coag negative Staphylococcus
___ Blood culture - no growth
___ Blood culture (x 2) - no growth
___ Urine culture - Enterobacter - pan-sensitive
.
IMAGING:
___ CXR - Findings suggest a remote significant trauma to the 
right chest with possible residual phrenic nerve palsy resulting 
in elevation of the right hemidiaphragm. There is a rounded 
convexity of the right hilar structures, which may be normal 
structures crowded due to volume loss; however, an underlying 
mass lesion or possibly adenopathy cannot be entirely excluded, 
particularly in light of lack of comparison studies. Clinically 
correlate. If indicated, consider cross-sectional imaging for 
more sensitive evaluation
.
___ CT CHEST W/O CONTRAST - No acute findings in the chest to 
explain patient's symptoms. Severe atherosclerotic disease of 
the aorta and coronary vessels.
.
___ BILATERAL LOWER EXTR U/S - significant thrombus burden in 
left lower extremity extending from CFV to SFV; no right leg 
clot burden noted.
.
___ FEMUR, PELVIS (AP & LAT) LEFT FILMS - Frontal view of the 
left hip demonstrates an 8-cm calcification in the pelvis likely 
due to calcified fibroid. There is diffuse osteopenia and 
degenerative changes of the lumbar spine. The femoral head is 
well seated 
within the acetabulum. There is some minimal medial migration 
and a small amount of joint sclerosis, compatible with mild 
degenerative changes. Vascular calcifications are noted. No 
fracture is seen. 
.
___ CXR, PORTABLE - Elevated right hemidiaphragm and 
prominent right hilum are again seen. There is no new infiltrate 
although lung volumes are low which somewhat limit this 
assessment. 
 
Brief Hospital Course:
IMPRESSION: ___ with a PMH significant for multiple prior 
pulmonary emboli (on Coumadin), HTN, type 1-IDDM (on Insulin), 
HTN who presented with progressive dyspnea now occurring at rest 
who was empirically heparinized for suspected PE given 
presentation, who then developed intermittent chest pain with 
non-specific EKG changes, Troponin elevation consistent with 
NSTEMI complicated by melenic stools with a ___ 
___ transferred to Cardiology for further management.
.
PLAN:
# CORONARIES - The patient has no history of documented coronary 
disease, but the likelihood based on risk factors is very high 
(risks: never smoker, obese, HTN, known PVD, HLD, mild family 
history). The patient recalls no history of cardiac cath 
procedure. She was admitted with progressive dyspnea and 
developed evidence of left lower extremity DVT that likely 
resulted in acute on chronic pulmonary embolus which was treated 
with heparinization on this admission. While on the medicine 
floor, she developed intermittent chest pain with EKG changes 
(non-specific ST changes in V5-6) and her Troponin was elevated 
(peaked at 0.57). She was medically optimized with Aspirin, 
beta-blocker, nitrates, statin and heparin gtt was continued (it 
was already initiated empirically for concern for pulmonary 
embolus). She was maintained on the heaprin gtt and other 
medical therapies were optimized and she had no recurrent chest 
pain. Given the developement of leukocytosis, a UTI, acute renal 
injury on CKD, the plan to consider cardiac catheterization was 
delayed. She remained chest pain free and her dyspnea resolved.
.
# PUMP - The patient has a history of a 2D-Echo performed ___ 
showing LVEF 35-40% with evidence of mild-moderately depressed 
systolic dysfunction (consistent with systolic CHF), evidence of 
symmetric LVH and moderate pulmonary artery HTN. She had been 
admitted on Lasix 20 mg PO for management of her fluid status. 
She was noted to have mild right ventricle dilatation on her 
Echo this admission, from her suspected pulmonary emboli which 
cause right heart dysfunction. This likely precipitated the 
NSTEMI and demand ischemia. She was medically optimized with 
Metoprolol, Isosorbide and Hydralazine (given her creatinine 
elevation, an ACEI was avoided this admission), and Lasix was 
dosed intermittently based off of volume status and renal 
function. Her electrolytes were optimized, her weights were 
obtained daily, and her fluid restriction was < 1.5L. She was 
monitored closely on telemetry.
.
# RHYTHM -  There was some question of new onset Atrial 
fibrillation on admission, but the patient had no prior history. 
The patient was noted to be in sinus rhythm on repeat EKGs, but 
volume overload could have triggered atrial stretch 
precipitating A.fib intermittently; her electrolytes were 
optimized and telemetry was maintained this admission. She will 
continue on Coumadin (after bridging from heparin) as an 
outpatient with an INR goal of ___ for her A.fib along with her 
DVT issues. Her INR was therapeutic on discharge.
.
# GI BLEEDING - The patient has no known history of bleeding 
complications and has been on heparin previously and coumadin 
therapy for a PE history, which has always been uncomplicated. 
This admission, after the initiation of heparin gtt for NSTEMI 
and suspected PE, the patient had 4 melenic stools which 
resolved with intermittent cessation of the heparin gtt. Once 
the bleeding resolved, the heparin gtt was resumed with a goal 
PTT of 50-60 given the prior bleeding. She tolerated this well. 
She was also transfused a single unit of packed red blood cells 
for a HCT of 24% this admission, with good response. An active 
type and screen was maintained, IV access was maintained and 
Protonix 40 mg IV Q12 was continued until bleeding had resolved. 
Hemodynamics were monitored via telemetry. Serial hematocrits 
were monitored closely. A Foley catheter was maintained until 
her volume status stabilized and bleeding issues resolved. She 
will continue with the Foley on discharge.
.
# HISTORY OF DVT/PE - The patinet has a history of prior DVT/PE 
in ___ now with prolonged immobilization and mostly 
wheelchair-bound. The patinet had a CT chest this admission 
without evidence of acute PE but it was without contrast given 
renal issues. The patient was admitted on Coumadin at home 
(admitted with a subtherapeutic INR of 1.5-1.6) but was not 
taking doses. She was then recently heparinized given PE and 
NSTEMI concerns this admission, and was found to have LLE clot 
burden in her common and superficial femoral veins on 
ultrasound. She was continued on a heparin gtt with goal PTT 
50-60 and frequent PTT checks. She was maintained on SCDs this 
admission. She had warm compresses applied to her left lower 
thigh given pain from the clot. A hip and femur X-ray was 
performed on the left side given on-going pain, which showed no 
acute fracture or malalignment. She did have a calcified fibroid 
seen on the pelvic film, which is likely symptomatic. The source 
of her recurrent DVT/PE disease was not fully elucidated. She 
has a prior DVT in ___, and has been on Coumadin. She will 
continue on Coumadin as an outpatient with INR monitoring (goal 
___.
.
# COAG NEG STAPH BLOOD CULTURE - The patient presented and a 
single blood culture positive from admission grew coagulase 
negative Staph which was likely a skin contaminent. Her WBC on 
admission was 13 and given her tenuous medical status, empiric 
Vancomycin was continued for treatment over 2-days (renally 
dosed); but this was discontinued when no further cultures were 
positive. She remained afebrile and her WBC was attributed to 
UTI (see below). 
.
# HYPERTENSION - The patient's BP goals this admission was < 
135/80 given her diabetes and PVD, along with her CAD risks. She 
remained normotensive for most of this admission with medical 
optimization. She was managed with beta-blocker, nitrate and 
hydralazine. She had some labile systolic hypertension issues 
and required transitioning to long-acting blood pressure 
medications. An ACEI was avoided given her renal function.
.
# ANEMIA/THROMBOCYTOPENIA - The patient was admitted with a HCT 
27.9 which was later noted to be 31.6. Following her heparin gtt 
bleeding issues, her HCT reached a nadir of 24.1% and she was 
transfused 1 units of packed red cells with improvement. The 
source of hematocrit decline was likely her heparin bleeding 
issues, but no recent colonoscopy was noted in her records. Her 
platelets were 218 on admission and these dropped to 138 this 
admission; this was closely monitored with no evidence of 
petechiae or worsening bleeding concerns. Her transfusion goal 
was set as a HCT > 26% given her likely coronary disease. We 
continued monitoring her serial HCTs, hemodynamics and trended 
her platelets. She likly needs age appropriate screening given 
her hematocrit trend. This was discussed with her HCP who felt 
invasive screening should be avoided if possible.
.
# TYPE 1 DIABETES MELLITUS (IDDM) - The patient has a diagnosis 
of diabetes that requires insulin, diagnosed in her ___. She has 
been maintained on Inuslin NPH/regular at home 28 units in the 
AM and 12 units in the ___ with sliding scale as needed. She had 
no reported HbA1c for comparison, but this admission it was 
7.2%. The patient was monitored with blood glucoses in the range 
of 200 mg/dL. We continued her insulin once she tolerated diet 
and this was increased to 30 units in the AM and 14 units in the 
evening of her NPH insulin regimen with good effect. She had no 
hypoglycemic episodes. We continue Q6H glucose monitoring.
.
# ACUTE ON CHRONIC RENAL INSUFFICIENCY - The patient was 
admitted with known chronic renal insufficiency likely a result 
of hypertension and diabetic nephropathy. Her baseline 
creatinine is in the range of 1.3 from her records (admission 
2.3). She was admitted with a creatinine elevation of 2.3 which 
was attributed to poor renal perfusion and systolic dysfunction 
versus the effects of diuresis; likely all pre-renal in 
etiology. Her medications were renally dosed, nephrotoxins were 
avoided and her creatinine improved to 1.7 prior to discharge. 
.
# ACUTE MENTAL STATUS CHANGES - The patient developed visual 
hallucinations on ___ she was given Zyprexa 2.5 mg PO x 1 with 
some effect but it was felt that her poor renal clearance 
contributed to a metabolic encephalopathy versus poor medication 
clearance which caused her mental status issues. We considered 
an infectious etiology, for which she was treated for UTI, she 
had negative blood cultures and no consolidation on CXR. Her 
neuro exam was without evidence of TIA/stroke. Her renal 
function was likely contributing to metabolic encephalopathy, 
and she improved with her improvement in renal function. 
Gabapentin, Vicodin and other deliriogenic medications were held 
with her mental status changes and slowly re-titrated with close 
monitoring. She had an ABG for a low suspicion of hypoxia on 
___, which was reassuring and showed adequate oxygenation.
.
TRANSITION OF CARE ISSUES:
1. ___ need outpatient age-appropriate screening: colonoscopy, 
mammogram, etc.
2. continue outpatient Coumadin with goal INR ___ will need 
close INR follow-up with weekly lab draws 
3. will need outpatient PCP, ___ (Dr. ___ follow-up
4. no pending radiologic studies or culture data on discharge
 
Medications on Admission:
HOME MEDICATIONS (confirmed with HCP)
1. Lisinopril 40 mg PO daily  
2. Furosemide 20 mg PO daily  
3. Allopurinol ___ mg PO daily  
4. Gabapentin 300 mg PO BID  
5. Aspirin 81 mg PO daily  
6. Calcium carbonate 600 mg PO daily  
7. Simvastatin 20 mg PO daily  
8. Quinine 324 mg PO QMWF  
9. Warfarin 5 mg QMTh, 2.5 mg QSaSuTWF  
10. Insulin NPH SQ 28 units QAM, 12 units QHS  
11. Insulin lispro SQ sliding scale ___ units before dinner  
12. Diphenhydramine 50 mg PO daily PRN insomnia 
13. Zolpidem PO PRN insomnia  
14. Ibuprofen 2 tabs PO QAM PRN back pain  
15. Lidoderm 5% patch x 2 to lower back daily  
16. Hydrocodone-acetaminophen 7.5/750 mg PO PRN back pain
 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. calcium carbonate 600 mg (1,500 mg) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
3. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. insulin NPH & regular human 100 unit/mL (70-30) Suspension 
Sig: Thirty (30) units Subcutaneous QAM.  
5. insulin NPH & regular human 100 unit/mL (70-30) Suspension 
Sig: Fourteen (14) units Subcutaneous QPM.  
6. insulin lispro 100 unit/mL Solution Sig: sliding scale see 
sliding scale Subcutaneous once a day: See sliding scale for 
dosing .  
7. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
Two (2) Adhesive Patch, Medicated Topical DAILY (Daily): for 
back pain.  
8. miconazole nitrate 2 % Powder Sig: One (1) Appl Topical TID 
(3 times a day) as needed for rash under breasts.  
9. isosorbide mononitrate 30 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
10. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. warfarin 5 mg Tablet Sig: 0.5 Tablet PO Q ___, TWF: 
Monitor for goal INR ___ and dose adjust accordingly.  
12. allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
14. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for fever, headache, pain.  
15. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
16. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
17. gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q24H 
(every 24 hours).  
18. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
19. hydralazine 25 mg Tablet Sig: Three (3) Tablet PO four times 
a day.  
20. oxycodone 5 mg Tablet Sig: 0.5 Tablet PO Q6H (every 6 hours) 
as needed for pain.  
21. Coumadin 5 mg Tablet Sig: One (1) Tablet PO Q ___, 
___: Monitor for an INR goal of ___ adjust as needed.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
1. Left lower extremity deep venous thrombosis
2. NSTEMI, acute coronary syndrome
3. Urinary tract infection
4. Acute gastrointestinal bleeding (on heparin)
5. Acute mental status changes
.
Secondary Diagnoses:
1. Hypertension
2. Insulin dependent diabetes mellitus
3. Peripheral vascular disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Patient Discharge Instructions:
You were admitted to the ___ Medicine 
service at ___ on ___ 3 
regarding management of your heart issues. You were admitted to 
the hospital with concern for a pulmonary embolus and a non-ST 
segment elevation myocardial infarction, and were placed on a 
heparin gtt for anticoagulation. You had some bleeding concerns 
intially, but these resolved and your heparin was restarted. You 
were transitioned to an oral anticoagulant for management of 
your anticoagulation without issue. You had a urinary tract 
infection that was treated with antibiotics. You also had some 
mental status changes and delirium which improved with 
medication optimization. Your heart medications were optimized 
and your cardiac status improved. You did not undergo cardiac 
catheterization this admission and this should be considered at 
a later time. 
.
Please call your doctor or go to the emergency department if:
* You experience new chest pain, pressure, squeezing or 
tightness.
* Worsening swelling in your legs or a weight gain of 3 lbs or 
more, fatigue or excessive weakness.
* You develop new or worsening cough, shortness of breath, or 
wheezing.
* You are vomiting and cannot keep down fluids, or your 
medications.
* If you are getting dehydrated due to continued vomiting, 
diarrhea, or other reasons. Signs of dehydration include: dry 
mouth, rapid heartbeat, or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit, or have a 
bowel movement.
* You experience burning when you urinate, have blood in your 
urine, or experience an unusual discharge.
* Your pain is not improving within 12 hours or is not under 
control within 24 hours.
* Your pain worsens or changes location.
* You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
* You develop any other concerning symptoms.
.
CHANGES IN YOUR MEDICATION RECONCILIATION:
* Upon admission, we ADDED the following medications:
You should START: increased your Aspirin from 81 to 325 mg PO 
daily
You should START: Atorvastatin 80 mg PO daily
You should START: Tylenol ___ mg PO Q6H as needed for pain, 
fever
You should CHANGE: your Allopurinol from 200 to 100 mg PO daily
You should CHANGE: your Gabapentin from 300 mg twice daily to 
300 mg PO daily
You should START: Colace 100 mg PO twice daily and Senna 8.6 mg 
1 tab PO BID as needed for constipation
You should START: increase your Lasix from 20 to 40 mg PO daily 
You should START: Hydralazine 75 mg PO four times daily
You should START: Imdur 30 mg ER PO daily
You should START: Miconazole powder 2% 1 application three times 
daily to rash under your breasts, as needed
You should START: Metoprolol succinate XL 100 mg PO daily
You should START: Pantoprazole 40 mg PO daily
You should START: dose your Coumadin between 2.5 and 5 mg PO 
daily (based on your INR goal of ___ which will be monitored 
closely)
You should START: Oxycodone 2.5 mg PO every 6 hours as needed 
for pain
You should CHANGE: Insulin NPH/Regular 70-30 has been increased 
to 30 units in the AM and 14 units in the ___.
.
* The following medications were DISCONTINUED on admission and 
you should NOT resume: 
DISCONTINUE: Simvastatin
DISCONTINUE: Lisinopril
DISCONTINUE: Quinine
DISCONTINUE: Diphenhydramine
DISCONTINUE: Zolpidem
DISCONTINUE: Ibuprofen
DISCONTINUE: Vicodin
.
* You should continue all of your other home medications as 
prescribed, unless otherwise directed above.
 
Followup Instructions:
___